US06930100B2
Step B. (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-ethyl ester; (S)-Ib, n=1)
Using (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-ethyl ester ((S)-VII, n=1) as starting material, the title compound was prepared analogously to (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-propyl ester; (S)-Ib, n=2) in 83%. 1H NMR (CDCl3, 500 MHz) δ 8.23 (s, 1H), 7.73 (d, 1H), 7.45 (d, 1H), 7.30 (d, 1H), 7.28 (d, 1H), 6.75 (d, 1H), 4.59 (m, 2H), 4.33 (m, 2H), 3.51 (s, 3H); MS (m/e) 525.95 (M+−1); 31P NMR (CDCl3, 500 MHz) δ 1.87; 19F NMR (CDCl3, 500 MHz) δ−63.25, 153.8; Anal. Calcd. for C19H15ClF4NO8P·0.159H2O: C=41.60%, H=3.18%, N=2.55%; Found: C=41.57%, H=2.92%, N=2.51%.

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-ethyl ester | C(C)(C)(C)OP(=O)(OCCOC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)OC(C)(C)C | C27H31ClF4NO8P
reactant | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-propyl ester | P(=O)(O)(O)OC(COC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)C | C20H17ClF4NO8P
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-ethyl ester | P(=O)(O)(O)OCCOC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O | C19H15ClF4NO8P
